US05439928
f) 4-[1-(4-fluorophenyl)-5-phenylpentyl]-1H-imidazole
4-[1-(4-fluorophenyl)-5-phenyl-1-pentenyl]-1H-imidazole hydrochloride (2,0 g) is dissolved in ethanol and a catalytic amount 10% Pd/C is added. The reaction mixture is agitated vigorously at room temperature in a hydrogen atmosphere until the uptake of hydrogen ceases. The mixture is filtered and the filtrate is evaporated to dryness. The residue which is the product is purified by flash chromatography eluting with methylene chloride-methanol mixture. Yield 82%.

reactant | 4-[1-(4-fluorophenyl)-5-phenyl-1-pentenyl]-1H-imidazole hydrochloride | 2,0 g | Cl.FC1=CC=C(C=C1)C(=CCCCC1=CC=CC=C1)C=1N=CNC1
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-[1-(4-fluorophenyl)-5-phenylpentyl]-1H-imidazole | Yield 82% | FC1=CC=C(C=C1)C(CCCCC1=CC=CC=C1)C=1N=CNC1 | C20H21FN2
